US05880147
2-t-Butyl-5-hydroxymethyl-1-nitrobenzene
A solution of 3.12 g (28.8 mmol) of ethyl chloroformate in 10 ml of tetrahydrofuran was added dropwise to a solution of 6.0 g (26.9 mmol) of 4-t-butyl-3-nitrobenzoic acid and 3.12 g (30.9 mmol) of triethylamine in 60 ml of tetrahydrofuran over a period of 10 minutes, whilst ice-cooling, and the resulting mixture was then stirred at the same temperature for 45 minutes. At the end of this time, the reaction mixture was filtered using a Celite (trade mark) filter aid, and the precipitates were washed with tetrahydrofuran. A combined solution of the filtrate and the washings was added dropwise to a solution of 3.76 g. (99.5 mmol) of sodium borohydride in a mixture of 40 ml of tetrahydrofuran and 40 ml of water, whilst ice-cooling, over a period of 25 minutes, and the mixture was stirred at the same temperature for 2 hours. At the end of this time, the reaction mixture was freed from the tetrahydrofuran by evaporation under reduced pressure . The resulting residue was partitioned between diethyl ether and water, and the aqueous layer was extracted with diethyl ether. The combined organic layers were washed twice with water and once with a saturated aqueous solution of sodium chloride. The solvent was then removed by distillation under reduced pressure, and the resulting residue was purified by column chromatography through 100 g of silica gel, using a gradient elution method, with mixtures of ethyl acetate and hexane ranging from 20:80 to 30:70 by volume as the eluent, to give 5.24 g (yield 93%) of the title compound as an oily substance.

reactant | ethyl chloroformate | 28.8 mmol, 3.12 g | ClC(=O)OCC | C3H5ClO2
reactant | 4-t-butyl-3-nitrobenzoic acid | 26.9 mmol, 6.0 g | C(C)(C)(C)C1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C11H13NO4
reactant | triethylamine | 30.9 mmol, 3.12 g | C(C)N(CC)CC | C6H15N
reactant | sodium borohydride | 99.5 mmol | [BH4-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | water | 40 ml | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-t-Butyl-5-hydroxymethyl-1-nitrobenzene | 5.24 g, yield 93% | C(C)(C)(C)C1=C(C=C(C=C1)CO)[N+](=O)[O-] | C11H15NO3
